US08278336B2
Step 1: Benzyl 4-(2-chloro-pyridin-3-yl-amino)-piperidine-1-carboxylate
560 mL (7.25 mol) TFA were added dropwise at about 15° C. to 930 g (3.99 mol) of N-benzyloxycarbonyl-4-piperidone and 466 g (3.63 mol) of 2-chloro-3-aminopyridine in 9.5 L of isopropyl acetate. 922 g (4.35 mol) of sodium triacetoxyborohydride were added batchwise. The mixture was stirred until the reaction was complete. At RT the reaction mixture was combined with 860 mL sodium hydroxide solution (2 mol/L). The organic phase was separated off, washed with 5 L water and concentrated by evaporation.

reactant | TFA | 7.25 mol, 560 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-benzyloxycarbonyl-4-piperidone | 3.99 mol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | 2-chloro-3-aminopyridine | 3.63 mol, 466 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | sodium triacetoxyborohydride | 4.35 mol, 922 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2 mol/L, 860 mL | [OH-].[Na+]
solvent | isopropyl acetate | 9.5 L | C(C)(=O)OC(C)C | C5H10O2
product | Benzyl 4-(2-chloro-pyridin-3-yl-amino)-piperidine-1-carboxylate | ClC1=NC=CC=C1NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H20ClN3O2
